US07157476B2
3-[3-(4-Methyl-piperazin-1-yl)-propoxy]-phenylacetic acid:
A mixture of 3-(3-chloro-propoxy)-phenylacetic acid (0.5 g, 2.2 mmol) and N-methylpiperazine (1.9 mL) was heated at 60° C. overnight. The reaction was diluted with water and purified by preparative HPLC to give the product as a clear gel. (0.6 g, 94%).

reactant | 3-(3-chloro-propoxy)-phenylacetic acid | 2.2 mmol, 0.5 g | ClCCCOC=1C=C(C=CC1)CC(=O)O | C11H13ClO3
reactant | N-methylpiperazine | 1.9 mL | CN1CCNCC1 | C5H12N2
solvent | water | O | H2O
product | 3-[3-(4-Methyl-piperazin-1-yl)-propoxy]-phenylacetic acid | CN1CCN(CC1)CCCOC=1C=C(C=CC1)CC(=O)O | C16H24N2O3
